US05523436
140 g (0.85 mol) of hydridotriethoxysilane were mixed with 100 g (0.88 mol) of allyl glycidyl ether, and 10 g of this mixture were initially introduced into a reaction vessel at 95° C. under normal pressure with 100 mg (9.5×10-5 mol) of tetrakis(1-phenyl-3-n-hexyl-1-triazenido) platinum complex. The remainder of the above mentioned was added dropwise to the mixture in the course of 80 minutes, the temperature rose to 160° C. When the addition was complete, the reaction mixture was stirred at 150° C. for an additional 30 minutes. After distillation, 3-glycidoxypropyltriethoxysilane was obtained as a colorless, liquid product in a 62.6% yield.

reactant | hydridotriethoxysilane | 0.85 mol, 140 g | C(C)O[SiH](OCC)OCC | C6H16O3Si
reactant | allyl glycidyl ether | 0.88 mol, 100 g | C(C1CO1)OCC=C | C6H10O2
product | 3-glycidoxypropyltriethoxysilane | 62.6% yield | C(C1CO1)OCCC[Si](OCC)(OCC)OCC | C12H26O5Si
